US06727264B1
2-METHYL-N-(3-{1-[3-({[2-(METHYLSULFANYL)ANILINO]CARBONYL}AMINO)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1-isocyanato-2-(methylsulfanyl)benzene and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 469.1 (M+H)+.

reactant | 1-isocyanato-2-(methylsulfanyl)benzene | N(=C=O)C1=C(C=CC=C1)SC | C8H7NOS
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 2-METHYL-N-(3-{1-[3-({[2-(METHYLSULFANYL)ANILINO]CARBONYL}AMINO)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCNC(=O)NC1=C(C=CC=C1)SC)C | C26H36N4O2S
